US08476302B2
A solution of (5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methanamine (0.85 mmol), 2-hydroxy-8-phenyloctanoic acid (0.85 mmol), 1-hydroxybenzotriazole hydrate (1.0 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.0 mmol), and DIPEA (3.4 mmol) in dimethylformamide (4 mL) was stirred at room temperature for 22 h. The resulting mixture was diluted with NaHCO3 (saturated) and extracted twice with ethyl acetate. The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated. The residue was purified by silica gel chromatography (MeOH—CH2Cl2) to yield N-((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)-2-hydroxy-8-phenyloctanamide. A solution of N-((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)-2-hydroxy-8-phenyloctanamide (0.22 mmol) in CH2Cl2 (5 mL) was treated with the Dess-Martin periodinane (0.34 mmol) and stirred overnight. The resulting mixture was quenched with a solution of sodium thiosulfate dissolved in saturated aqueous NaHCO3, and the mixture was extracted twice with ethyl acetate. The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by chromatography (silica gel, heptane-ethyl acetate) to yield the title compound.

reactant | (5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methanamine | 0.85 mmol | FC=1C=C(COC2=CC=C(C=C2)C2=NN=C(S2)CN)C=CC1 | C16H14FN3OS
reactant | 2-hydroxy-8-phenyloctanoic acid | 0.85 mmol | OC(C(=O)O)CCCCCCC1=CC=CC=C1 | C14H20O3
reactant | 1-hydroxybenzotriazole hydrate | 1.0 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.0 mmol | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 3.4 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-((5-(4-((3-fluorobenzyl)oxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)-2-hydroxy-8-phenyloctanamide | FC=1C=C(COC2=CC=C(C=C2)C2=NN=C(S2)CNC(C(CCCCCCC2=CC=CC=C2)O)=O)C=CC1 | C30H32FN3O3S
